US08067408B2
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[3′-({ethyl [2-(methylamino)ethyl]amino}methyl)-3-biphenylyl]methyl}-1,3-benzenedicarboxamide
To a solution of 1,1-dimethylethyl 4-[(3′-{[({3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]phenyl}carbonyl)amino]methyl}-3-biphenylyl)methyl]-1-piperazinecarboxylate (0.130 g, 0.16 mmol) in DCM (200 μL) was added TFA (100 μL, 0.1298 mmol) after which the mixture was stirred at room temperature for ¼ h. The reaction mixture was concentrated under vacuum, purified using a Gilson HPLC (with 0.1% TFA), and product concentrated using a GeneVac EZ-2 evaporator at 45° C. for 8 h. Extra TFA was removed by re-dissolving the resultant mixture in DCM and passing it though an amino cartridge to afford 0.0555 g (48%) of the title compound. LC-MS m/z 716 (M+H)+; 1H NMR (400 MHz, CD3OD) δ ppm 1.39 (t, J=7.53 Hz, 3H) 1.48 (t, J=7.28 Hz, 3H) 1.80-1.95 (m, 2H) 2.08 (d, J=12.30 Hz, 2H) 3.15 (q, J=7.53 Hz, 2H) 3.57 (s, 8H) 3.62-3.72 (m, 2H) 4.02 (dd, J=8.41, 3.14 Hz, 2H) 4.27-4.39 (m, 1H) 4.43-4.52 (m, 4H) 4.64 (s, 2H) 4.70 (s, 2H) 7.35-7.46 (m, 2H) 7.46-7.63 (m, 4H) 7.65 (s, 1H) 7.73 (d, J=7.53 Hz, 1H) 7.81 (s, 1H) 8.05 (d, J=7.78 Hz, 2H) 8.27 (s, 1H) 8.40 (s, 1H).

reactant | 1,1-dimethylethyl 4-[(3′-{[({3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]phenyl}carbonyl)amino]methyl}-3-biphenylyl)methyl]-1-piperazinecarboxylate | 0.16 mmol, 0.130 g | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C=2C=C(C=CC2)C(=O)NCC=2C=C(C=CC2)C2=CC(=CC=C2)CN2CCN(CC2)C(=O)OC(C)(C)C)CC | C47H58N8O5
reactant | TFA | 0.1298 mmol, 100 μL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 200 μL | C(Cl)Cl | CH2Cl2
product | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[3′-({ethyl [2-(methylamino)ethyl]amino}methyl)-3-biphenylyl]methyl}-1,3-benzenedicarboxamide | 0.0555 g, 48% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC=C2)C(=O)NCC=2C=C(C=CC2)C2=CC(=CC=C2)CN(CCNC)CC)CC | C43H54N8O3
